US06548493B1
4-((±)-cis-5,6,8,9,11,11a-hexahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinolin-10(7aH)-yl)-1-(4-pyridinyl)-1-butanone
The title compound (0.080 g, 18%) was prepared by the general method of Example 402 from (±)-cis-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline (0.25 g, 1.2 mmol), 4-chloro-1-(4-pyridinyl)-1-butanone (0.36 g, 2.0 mmol), KI (catalytic) and K2CO3 (0.28 g, 2.0 mmol) after chromatographic purification as a white amorphous solid. 1H NMR (CDCl3, 300 MHz) δ1.68-2.18 (m, 7H), 2.20-2.65 (m, 5H), 2.69 (t, J=6.4 Hz, 2H), 2.72-2.82 (m, 1H), 2.92-3.08 (m, 3H), 3.15-3.28 (m, 2H), 6.62 (t, J=7.5 Hz, 1H), 6.86 (d, J=7.6 Hz, 1H), 6.89 (d, J=7.4 Hz, 1H), 7.70-7.80 (m, 2H), 8.75-8.82 (m, 2H) ppm.

reactant | (±)-cis-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 1.2 mmol, 0.25 g | C1=CC=C2CCCN3C2=C1[C@@H]1[C@H]3CCNC1 | C14H18N2
reactant | 4-chloro-1-(4-pyridinyl)-1-butanone | 2.0 mmol, 0.36 g | ClCCCC(=O)C1=CC=NC=C1 | C9H10ClNO
reactant | K2CO3 | 2.0 mmol, 0.28 g | C(=O)([O-])[O-].[K+].[K+]
product | 4-((±)-cis-5,6,8,9,11,11a-hexahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinolin-10(7aH)-yl)-1-(4-pyridinyl)-1-butanone | 0.080 g, 18% | C1=CC=C2CCCN3C2=C1[C@@H]1[C@H]3CCN(C1)CCCC(=O)C1=CC=NC=C1 | C23H27N3O
